### PR TITLE
[Merged by Bors] - feat: add congruence lemmas for `Function.update` and `Pi.single`

### PR DESCRIPTION
**Pull request by Rob23oba**
Adds `simp` congruence lemmas to `Function.update` and `Pi.single` that are specialized for the non-dependent case. See also [#mathlib4 > Simp fails to apply with &#96;Function.update&#96;](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Simp.20fails.20to.20apply.20with.20.60Function.2Eupdate.60/with/573889929).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Notation/Pi/Basic.lean [hunk 1]
```diff
@@ -88,6 +88,19 @@ lemma mulSingle_inj (i : ι) {x y : M i} : mulSingle i x = mulSingle i y ↔ x =
...
+A congruence lemma for `Pi.mulSingle`, specialized for the non-dependent case. Without this,
+`simp` can't rewrite in the first and third argument (`i` and `j`) because of dependence.
+-/
+@[to_additive (attr := congr) /--
+A congruence lemma for `Pi.single`, specialized for the non-dependent case. Without this,
+`simp` can't rewrite in the first and third argument (`i` and `j`) because of dependence.
+-/]
+lemma mulSingle_congr {i₁ i₂ : ι} (hi : i₁ = i₂)
+    {x₁ x₂ : M} (hx : x₁ = x₂) {j₁ j₂ : ι} (hj : j₁ = j₂) :
+    (mulSingle i₁ x₁ : ι → M) j₁ = (mulSingle i₂ x₂ : ι → M) j₂ :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Notation/Pi/Basic.lean:103]: Is this any less useful if stated without the last argument?

Comment (Rob23oba) [reply Mathlib/Algebra/Notation/Pi/Basic.lean:103]: Yes, turns out `simp` can rewrite in the first argument just fine if you only use `mulSingle` as a two argument function but it fails to rewrite in the first and third argument when `mulSingle` is used as a three argument function.

File: Mathlib/Logic/Function/Basic.lean [hunk 2]
```diff
@@ -499,6 +499,17 @@ theorem update_self (a : α) (v : β a) (f : ∀ a, β a) : update f a v a = v :
 theorem update_of_ne {a a' : α} (h : a ≠ a') (v : β a') (f : ∀ a, β a) : update f a' v a = f a :=
   dif_neg h
 
+/--
+A congruence lemma for `Function.update`, specialized for the non-dependent case. Without this,
+`simp` can't rewrite in the fourth argument `a` because the result type depends on `a`.
```
Comment (loefflerd) [inline Mathlib/Logic/Function/Basic.lean:647]: Perhaps you could mention the lean core issue (12478) in this comment.

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 3]
```diff
@@ -500,7 +500,6 @@ private lemma hasFPowerSeriesOnBall_update (hh : 0 < h)
         (by simpa using hr) (mod_cast hr')).summable.norm
   · simp
   · intro y hy
-    rw [zero_add]
     -- note the `simp`s below do not automatically apply this lemma to the argument of
     -- `Function.update`, because of limitations in `simp`'s support for dependent function types,
     -- see lean4 issue #12478.
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean]: The comment below was to explain the `rw`, so we can get rid it now.
```suggestion
```

**Review by loefflerd — APPROVED** [review]
Thanks for doing this!

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean (hunk 3 above)
Comment (Rob23oba) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean]: I thought I already did that lol

**Comment by loefflerd** [comment]
LGTM now, thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
